US04423071
Preparation of N-(di-n-propylacetyl)-diethanolamine bis-(di-n-propylacetate)
Into a perfectly clean and dry flask were introduced 105.1 g (1 mol) of rectified diethanolamine and 1600 ml of anhydrous pyridine. While stirring, 507.4 g (3.12 mols) of di-n-propylacetyl chloride were added in 30 to 45 minutes, care being taken to maintain the temperature below +30° C. The reaction medium was then stirred at room-temperature for 48 hours.

reactant | diethanolamine | 1 mol, 105.1 g | N(CCO)CCO | C4H11NO2
reactant | di-n-propylacetyl chloride | 3.12 mols, 507.4 g | C(CC)C(C(=O)Cl)CCC | C8H15ClO
solvent | pyridine | 1600 ml | N1=CC=CC=C1 | C5H5N
product | N-(di-n-propylacetyl)-diethanolamine bis-(di-n-propylacetate) | C(CC)C(C(=O)O)CCC.C(CC)C(C(=O)O)CCC.C(CC)C(C(=O)N(CCO)CCO)CCC | InChI=1S/C12H25NO3.2C8H16O2/c1-3-5-11(6-4-2)12(16)13(7-9-14)8-10-15;2*1-3-5-7(6-4-2)8(9)10/h11,14-15H,3-10H2,1-2H3;2*7H,3-6H2,1-2H3,(H,9,10)
